US04006245
A mixture of 3.05 parts of 4-(5-bromopentyloxy)-2-hydroxy acetophenone, 2.34 parts of ethyl 7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate, 1.38 parts of potassium carbonate and 0.5 parts of potassium iodide, in 200 parts of dry acetone, was heated under reflux for 24 hours. The solution was filtered while hot and the inorganic salts washed with hot acetone. The solvent was removed to leave a yellow solid, which was washed with water and ether. The insoluble yellow solid was crystallised from ethyl alcohol to yield 3.3 parts of ethyl 7-[5-(4-acetyl-3-hydroxyphenoxy)pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylate as pale yellow needles, melting point 136°-137° C.

reactant | ethyl 7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate | OC1=CC2=C(C(C=C(O2)C(=O)OCC)=O)C=C1 | C12H10O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | ethyl 7-[5-(4-acetyl-3-hydroxyphenoxy)pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylate | C(C)(=O)C1=C(C=C(OCCCCCOC2=CC3=C(C(C=C(O3)C(=O)OCC)=O)C=C2)C=C1)O | C25H26O8
